US07579469B2
A mixture of 1-[4-(3-acetylphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1-H-quinolin-4-one (55 mg, 0.12 mmol), potassium carbonate (72 mg, 0.52 mmol), and methoxyamine hydrochloride (42 mg, 0.51 mmol) in 1 mL of methanol was heated at 65° C. for 3 hours, cooled to room temperature, and concentrated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by flash chromatography to afford 1-(2-hydroxy-4-{3-[1-(methoxyimino)ethyl]phenyl}-4-methyl-2-trifluoromethyl-pentyl)-1H-quinolin-4-one. Yield: 48 mg.

reactant | 1-[4-(3-acetylphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1-H-quinolin-4-one | 0.12 mmol, 55 mg | C(C)(=O)C=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C | C24H24F3NO3
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methoxyamine hydrochloride | 0.51 mmol, 42 mg | Cl.CON
solvent | methanol | 1 mL | CO | CH4O
product | 1-(2-hydroxy-4-{3-[1-(methoxyimino)ethyl]phenyl}-4-methyl-2-trifluoromethyl-pentyl)-1H-quinolin-4-one | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=CC(=CC=C1)C(C)=NOC)C(F)(F)F | C25H27F3N2O3
